US04938871
Preparation of 2-hexyl-N,N'-dimethyl-N,N'-dibutyl-propane diamide (2-HDBDMPDA) (compound 6)
0.1 mol of N,N'-dimethyl-N,N'-dibutyl-propane diamide dissolved in 400 ml of tetrahydrofuran are introduced into a one litre reactor, scavenged by a nitrogen stream. Cooling takes place to -50° C. using an acetone bath and solid carbon dioxide. Then pouring of a solution of n-butyl lithium prepared from 0.1 mol of n-butyl lithium in 100 ml of anhydrous tetrahydrofuran occurs. Under the same conditions a solution of hexyl iodide prepared from 0.1 mol of hexyl iodide and 100 ml of anhydrous tetrahydrofuran is poured. When pouring is at an end, the temperature is allowed to rise to ambient temperature again, followed by refluxing the tetrahydrofuran is for three hours. Cooling is allowed to take place, followed by hydrolysis with a water-ethanol mixture. The tetrahydrofuran is expelled and in this way a precipitate is formed. This is taken up with methylene chloride, followed by washing with water, drying the organic layer, expelling the solvent and distilling. The boiling point is 145° to 148° C. under 0.4 mm of mercury and the product is a yellow liquid. Its characterization by nuclear magnetic resonance of the proton and by potentiometric dosage confirms that it corresponds to the above formula.

reactant | N,N'-dimethyl-N,N'-dibutyl-propane diamide | 0.1 mol | CN(C(CC(=O)N(CCCC)C)=O)CCCC | C13H26N2O2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | n-butyl lithium | 0.1 mol | C(CCC)[Li]
reactant | hexyl iodide | C(CCCCC)I | C6H13I
reactant | hexyl iodide | 0.1 mol | C(CCCCC)I | C6H13I
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water ethanol | O.C(C)O
product | 2-hexyl-N,N'-dimethyl-N,N'-dibutyl-propane diamide | C(CCCCC)C(C(=O)N(CCCC)C)C(=O)N(CCCC)C | C19H38N2O2
